### PR TITLE
specifications for std::vector and std::find

### PR DESCRIPTION
**Pull request by simon-skylabs**

### CODE REVIEW

File: rocq-brick-libstdcpp/proof/algorithms/spec.v [hunk 1]
```diff
@@ -0,0 +1,97 @@
+(**
+ * Copyright (C) 2025 SkyLabs AI, Inc.
+ * All rights reserved.
+ *
+ * SPDX-License-Identifier: LGPL-2.1 WITH BlueRock Exception for use over network, see repository root for details.
+ *)
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/algorithms/spec.v:6]: Licensing here.

File: rocq-brick-libstdcpp/proof/iterator/spec.v [hunk 2]
```diff
@@ -0,0 +1,724 @@
...
+
+  End lookup_result.
+
+  #[global] Hint Resolve lookup_result_rangeZ_F : sl_opacity.
+  #[global] Hint Resolve lookup_result_fmap_F : sl_opacity.
+
+NES.End std.
+
+(** TODO: update comment to reflect changes to this *)
+Module Type CODE_SNIPPETS (U : common.UNIT).
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/iterator/spec.v:659]: This looks like it needs to be moved to the test directory?

File: rocq-brick-libstdcpp/proof/vector/spec.v [hunk 3]
```diff
@@ -0,0 +1,860 @@
...
+    #[global] Hint Resolve vector_spine_intro_CB : sl_opacity.
+
+    #[global] Hint Resolve congr_spineR : normalize_db.
+    #[global] Hint Resolve congr_resizedR : normalize_db.
+
+  End VECTOR_SPECS.
+
+  Module Type VECTOR := VECTOR_PREDS <+ VECTOR_SPECS.
+
+  Declare Module vector : VECTOR.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/proof/vector/spec.v]: Is there a benefit to this structure over simply having things at the top-level?

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 4]
```diff
@@ -0,0 +1,346 @@
+(*
+ * Copyright (c) 2025 BlueRock Systems, Inc.
+ * This software is distributed under the terms of the BedRock Open-Source License.
+ * See the LICENSE-BedRock file in the repository root for details.
+ *)
+Require Import skylabs.auto.cpp.proof.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Should probably modernize this to use `prelude.proof`.

File: rocq-brick-libstdcpp/test/vector/test.cpp [hunk 5]
```diff
@@ -0,0 +1,101 @@
...
+    int r = sum(v);
+    test(r == 6);
+}
+
+struct Aggregate {
+    int x, y, z;
+    Aggregate(const Aggregate &) = default;
+    Aggregate(Aggregate &&) = default;
+    Aggregate& operator = (const Aggregate &) = default;
+    Aggregate& operator = (Aggregate &&) = default;
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/test/vector/test.cpp]:
```suggestion
    Aggregate& operator=(const Aggregate &) = default;
    Aggregate& operator=(Aggregate &&) = default;  
```

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 6]
```diff
@@ -0,0 +1,346 @@
...
+        op_eq_spec **
+        op_neq_spec **
+        dtor_spec .
+
+    End specs.
+
+    Section proofs.
+      Context `{MOD : test_cpp.module ⊧ σ}.
+      Import linearity auto_frac.
+      Import wp_path.WpPrimRSep.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Did we decide to deprecate this?

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 7]
```diff
@@ -0,0 +1,346 @@
...
+
+      Lemma copy_assign_ok :
+        denoteModule module |-- copy_assign_spec.
+      Proof using MOD.
+        verify_spec. go with pick_frac.
+        (* errors.Errors.UNSUPPORTED.body
+          "wp_method_shift: defaulted methods"%pstring *)
+      Fail Qed.
+      Admitted.
+      Definition copy_assign_B := [LINK] copy_assign_ok.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: If the body doesn't exist, then it doesn't seem like it should be necessary for the proof.

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 8]
```diff
@@ -0,0 +1,346 @@
...
+
+    Lemma test_for_each_ok : verify[ module ] test_for_each.
+    Proof using MOD.
+      verify_spec.
+      time "test_for_each_ok" go.
+    Qed.
+    Definition test_for_each_B := [LINK] test_for_each_ok.
+    #[local] Hint Resolve test_for_each_B : sl_opacity.
+
+    Lemma sum_ok : verify[ module ] sum_spec.
```
Comment (gmalecha-at-skylabs) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Just modernization.

```suggestion
    Lemma sum_ok : verify[ source ] sum_spec.
```

**Review by gmalecha-at-skylabs — APPROVED** [review]
Looks good. We need to address the license information and a few other cosmetic things, but otherwise we should get it merged.

File: rocq-brick-libstdcpp/proof/vector/spec.v (hunk 3 above)
Comment (simon-skylabs) [reply rocq-brick-libstdcpp/proof/vector/spec.v]: I don't think so. I'll remove it

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v (hunk 4 above)
Comment (simon-skylabs) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Yes but we should check that we can fix the proofs first.

Comment (simon-skylabs) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Actually `prelude.proof`, is included in `prelude.test`

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v (hunk 6 above)
Comment (simon-skylabs) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: There was an effort to retire it that I haven't managed to complete yet. Some array hints were tricky to adjust. We can give it another try.

Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Revising those other hints doesn't belong in this PR, but `prelude.proof` (https://github.com/SkyLabsAI/auto/blob/d678443f5ccd96aa0caf9da784c30f04732254b2/rocq-skylabs-auto-cpp/theories/auto/cpp/prelude/proof.v) already covers all of this except `Import linearity`.

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v (hunk 7 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Could you rephrase that as a change suggestion?

If you're talking about method body not proof body, I'm still missing something — it seems this code has to verify a compiler-generated defaulted method?

File: rocq-brick-libstdcpp/proof/iterator/spec.v (hunk 2 above)
Comment (simon-skylabs) [reply rocq-brick-libstdcpp/proof/iterator/spec.v:659]: That code is meant to track the snippets in the header comment. I'm afraid the documentation and the code snippets will drift if we move that out.

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v (hunk 6 above)
Comment (pgiarrusso-sl) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Concretely, I suggest this because the import is redundant:
```suggestion
```

File: rocq-brick-libstdcpp/proof/algorithms/spec.v [hunk 9]
```diff
@@ -0,0 +1,97 @@
...
+Require Import skylabs.cpp.spec.concepts.
+
+Require Import skylabs.prelude.under_rel_proper.
+
+Require Import skylabs.cpp.spec.concepts.
+
+Require Export skylabs.brick.libstdcpp.iterator.spec.
+
+(* Require Import skylabs.ltac2.extra.internal.constr. *)
+(* Require Import skylabs.ltac2.extra.extra. *)
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/algorithms/spec.v]: Please find and remove such commented out code.

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 10]
```diff
@@ -0,0 +1,312 @@
...
+Require Import skylabs.brick.libstdcpp.vector.spec.
+Require Import skylabs.brick.libstdcpp.algorithms.spec.
+Require Import skylabs.brick.libstdcpp.test.vector.test_cpp.
+
+Require Import skylabs.auto.cpp.prelude.test.
+
+(* #[global] Hint Resolve arrayLR_split_head_bwd_C : sl_opacity. *)
+
+Import auto.lazy.big_sep.hints.
+Import auto.cpp.lazy.big_sep.array.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: Are these imports still needed or stale?

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 11]
```diff
@@ -0,0 +1,312 @@
...
+ *)
+Require Import skylabs.brick.libstdcpp.allocator.spec.
+Require Import skylabs.brick.libstdcpp.cassert.spec.
+Require Import skylabs.brick.libstdcpp.vector.spec.
+Require Import skylabs.brick.libstdcpp.algorithms.spec.
+Require Import skylabs.brick.libstdcpp.test.vector.test_cpp.
+
+Require Import skylabs.auto.cpp.prelude.test.
+
+(* #[global] Hint Resolve arrayLR_split_head_bwd_C : sl_opacity. *)
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]:
```suggestion
```

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 12]
```diff
@@ -0,0 +1,312 @@
...
+        move_assign_spec **
+        op_eq_spec **
+        op_neq_spec **
+        dtor_spec .
+
+    End specs.
+
+    Section proofs.
+      Context `{MOD : test_cpp.module ⊧ σ}.
+      Import linearity auto_frac.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]:
```suggestion
      Import linearity.
```
Because auto_frac is imported by the prelude.

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 13]
```diff
@@ -0,0 +1,312 @@
...
+
+    Lemma test_aggregate_ok : verify[ source ] test_aggregate.
+    Proof using MOD.
+      verify_spec.
+      go.
+    Qed.
+    Definition test_aggregate_B := [LINK] test_aggregate_ok.
+    #[local] Hint Resolve test_aggregate_B : sl_opacity.
+
+    (* TODO: investigate. We get a warning for missing specs but the proof goes through anyway *)
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: the next line uses verify not verify?, so this is probably fixed:
```suggestion
```

File: rocq-brick-libstdcpp/proof/iterator/spec.v [hunk 14]
```diff
@@ -0,0 +1,723 @@
...
+                └---------------------- [type], iterator type or range type of the object implementing a
+                                        range.
+
+     [range] specifies pointers to a series of object without specifying the objects themselves. It
+     defines the order of the objects abstractly to allow any collection type to specify its own.  It
+     is meant to be easy to split, recombine and move elements between consecutive ranges. Two ranges
+     are said to be consecutive iff the end position of one coincides with the beginning position of
+     the other.
+   *)
+  Open Scope Z_scope.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/iterator/spec.v]:
```suggestion
  #[local] Open Scope Z_scope.
```

File: rocq-brick-libstdcpp/proof/iterator/spec.v [hunk 15]
```diff
@@ -0,0 +1,723 @@
...
+        + by rewrite rangeZ_snoc // => /app_inj_2 [//|-> [= <-]].
+        + by rewrite rangeZ_oob // symmetry_iff app_nil => - [].
+      - move => - [Hij [] Hxi Hrng].
+        by rewrite rangeZ_snoc // -Hxi Hrng.
+    Qed.
+
+  End UPSTREAM.
+
+  Section array.
+    Open Scope Z_scope.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/iterator/spec.v]:
```suggestion
    #[local] Open Scope Z_scope.
```

File: rocq-brick-libstdcpp/test/vector/test_cpp_proof.v [hunk 16]
```diff
@@ -0,0 +1,312 @@
...
+      verify_spec.
+      go.
+    Qed.
+
+    Definition main_B := [LINK] main_ok.
+    #[local] Hint Resolve main_B : sl_opacity.
+
+    (* NOTE(Simon): this is annoyingly verbose
+
+       Updated: latest update to [SpecFor] instances makes it more concise but the underscore are
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: The standard fix to underscores is to mark more parameters as implicit. Does it work here?

Comment (simon-skylabs) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: It would but the declaration is generated by the automation. Right now, it's generated by a tactic call. Using `cpp.spec` instead has the same problem because it doesn't try to guess which argument should be implicit and which one should be explicit.

Comment (simon-skylabs) [reply rocq-brick-libstdcpp/test/vector/test_cpp_proof.v]: I transitioned that spec to `cpp.spec` and used `Arguments` to make more arguments implicit. I think we should have elpi do it unless we can have something like `verify[ ... ]` for linking proofs.
